US08835484B2
Sodium 5-bromopentane sulfonate
1,5-Dibromopentane (16.4 g, 71 mmol), sodium sulfite (3 g, 24 mmol), ethanol (25 mL) and water (20 mL) were reacted and worked up analogously to sodium 2-bromoethane sulfonate. Yield: 7.4 g (41%) colorless solid. IR (ATR): {tilde over (ν)}=3485 (m), 3411 (w), 2978 (w), 2930 (m), 2908 (w), 2895 (w), 2867 (w), 2851 (w), 1636 (w), 1616 (w), 1487 (w), 1466 (m), 1410 (w), 1390 (w), 1329 (w), 1314 (w), 1293 (w), 1262 (w), 1224 (m), 1207 (s), 1180 (s), 1044 (s), 988 (w), 938 (w), 823 (w), 804 (w), 792 (w), 729 (w), 618 cm−1 (w). HRMS (ESI) (C5H11BrNaO3S+): calculated 252.9504. found 252.9820, Δ=31.6 mmu.

reactant | 1,5-Dibromopentane | 71 mmol, 16.4 g | BrCCCCCBr | C5H10Br2
reactant | sodium sulfite | 24 mmol, 3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | sodium 2-bromoethane sulfonate | BrCCS(=O)(=O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | Sodium 5-bromopentane sulfonate | BrCCCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C5H11BrO3S.Na/c6-4-2-1-3-5-10(7,8)9;/h1-5H2,(H,7,8,9);/q;+1/p-1
